US05776740
A 100 g of the frozen cells of Escherichia coli K-12 SH1001 prepared in Preparation Example 2 and 100 g of the frozen cells of Escherichia coli K-12 YK3005 (FERM BP-1736) prepared in Preparation Example 4 were suspended in 500 ml of the reaction solution (adjusted to pH 9.5 with 25% ammonia)containing 0.1 g of indole, 7.5 g of glycine, 1.6 g of formalin (formaldehyde content: 37%), 100 mg of PLP, 1.0 g of THF and 3.8 g of KCl, and then water was added to the suspension to make its total amount 1,000 ml. This suspension was fed into a 3-liter fermentor (mfd. by Able Inc.) and reacted with stirring at 30° C. During the reaction, pH of the reaction solution was adjusted to maintain at 9.5 with 25% ammonia. Indole was added continuously or intermittently so that the indole concentration in the reaction solution wouldn't exceed 2 mmol/l while monitoring the indole concentration by a high-performance liquid chromatograph (mfd. by Shimazu Corp.). Further, glycine and formaldehyde were added continuously or intermittently so that the L-serine concentration wouldn't exceed the designated levels for the respective test sections shown in Table 2 while monitoring the L-serine concentration in the reaction solution by a high-performance liquid chromatograph(mfd. by Shimazu Corp.). Glycine was added in a total amount of 22.5 g. The L-tryptophan concentration in the reaction solution was monitored by a high-performance liquid chromatograph (mfd. by Shimazu Corp.). The yields of L-tryptophan based on glycine are shown in Table 2.

reactant | indole | 0.1 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | glycine | 7.5 g | NCC(=O)O | C2H5NO2
reactant | formalin | 1.6 g | C=O | CH2O
reactant | KCl | 3.8 g | [Cl-].[K+]
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | THF | 1.0 g | C1CCOC1 | C4H8O
product | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
